US06093732
N-((4-Chlorophenyl)methyl)-4-hydroxy-5-trifluoromethyl-3-quinolinecarboxamide
N-((4-Chlorophenyl)methyl)-8-chloro-4-hydroxy-5-trifluromethyl-3-quinoline-carboxamide (2.00 g) from Example No. 59 is dissolved in glacial acetic acid (100 mL) along with NaOAc·3H2O (937 mg) and 5% palladium on carbon (666 mg). The mixture is placed under hydrogen pressure (25 psi) in a Parr hydrogenator for 3 h. The reaction mixture is filtered through a plug of celite, concentrated, suspended in water (30 mL), and filtered. The resulting solid (500 mg) and 4-chlorobenzylamine (2.13 mL) are then heated at 190° C. for 1 h. The crude product is purified by column chromatography (dichloromethane/methane, 50/1) to afford 62 mg of the title compound as a white solid.

reactant | N-((4-Chlorophenyl)methyl)-8-chloro-4-hydroxy-5-trifluromethyl-3-quinoline-carboxamide | 2.00 g | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C=CC(=C2C1O)C(F)(F)F)Cl | C18H11Cl2F3N2O2
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 666 mg | [Pd] | Pd
product | N-((4-Chlorophenyl)methyl)-4-hydroxy-5-trifluoromethyl-3-quinolinecarboxamide | 62 mg | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=CC=CC(=C2C1O)C(F)(F)F | C18H12ClF3N2O2
